US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-(phenylamino)urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (50 mg) was added to toluene (5 ml), and triethylamine (0.5 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (50 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, phenylhydrazine (50 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to the reaction solution to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with water and saturated brine in that order. The organic layer was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by HPLC using chloroform/methanol for development to give the title compound (47 mg, yield 66%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
reactant | triphosgene | 50 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | phenylhydrazine | 50 mg | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-(phenylamino)urea | 47 mg, yield 66% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NNC1=CC=CC=C1)F | C24H21FN4O4
